US08735384B2
A mixture of 3-morpholino-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinolin-2-amine (0.099 g, 0.279 mmol), (2-bromo-3-methylphenyl)(tetrahydrofuran-2-yl)methanone (0.050 g, 0.186 mmol), potassium phosphate tribasic (0.077 mL, 0.929 mmol), 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl (0.018 g, 0.037 mmol), and Pd2(dba)3 (8.51 mg, 9.29 μmol) were treated with dioxane (1.2 mL) and water (0.62 mL) in a medium-sized Smith synthesizer vial. The mixture was heated to 140° C. for 12 min in a microwave reactor. The reaction mixture was filtered then partitioned between EtOAc and water, organics were washed with water and brine and then concentrated in vacuo. The crude product was purified by silica flash chromatography (1-10% MeOH/DCM) and then by HPLC (10-75% acetonitril/H2O; TFA modifier). A single fraction was treated with NH4OH, concentrated, filtered and air-dried to afford (2-(2-amino-3-morpholinoquinolin-6-yl)-3-methylphenyl)(tetrahydrofuran-2-yl)methanone. MS (ESI, pos. ion) m/z: 418 (M+1).

reactant | 3-morpholino-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinolin-2-amine | 0.279 mmol, 0.099 g | O1CCN(CC1)C=1C(=NC2=CC=C(C=C2C1)B1OC(C(O1)(C)C)(C)C)N | C19H26BN3O3
reactant | (2-bromo-3-methylphenyl)(tetrahydrofuran-2-yl)methanone | 0.186 mmol, 0.050 g | BrC1=C(C=CC=C1C)C(=O)C1OCCC1 | C12H13BrO2
reactant | potassium phosphate tribasic | 0.929 mmol, 0.077 mL | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl | 0.037 mmol, 0.018 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
catalyst | Pd2(dba)3 | 9.29 μmol, 8.51 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | 0.62 mL | O | H2O
solvent | dioxane | 1.2 mL | O1CCOCC1 | C4H8O2
product | (2-(2-amino-3-morpholinoquinolin-6-yl)-3-methylphenyl)(tetrahydrofuran-2-yl)methanone | NC1=NC2=CC=C(C=C2C=C1N1CCOCC1)C1=C(C=CC=C1C)C(=O)C1OCCC1 | C25H27N3O3
